Name:  ___                     Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: NEUROLOGY
 
Allergies: 
Dilaudid
 
Attending: ___.
 
Chief Complaint:
?seizure
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
The patient is a ___ yo M with history of anxiety, depression, 
and
narcotic use who presented with acute onset AMS while driving
with associated lip smacking concerning for seizure. 

Briefly, patient is originally from ___, has been visiting
___ for 10 days and is here for the birth of his grandson. 
History obtained by mother who is at bedside, with some
additional information from patient.
He was reportedly in his usual state of health until circa a
several days ago when he had an episode of vague diffuse
abdominal pain, altered mental status, and lip smacking. He
presented to ___, where he underwent a CT head and CT abdomen,
which were reportedly unremarkable. He was not seen by a
neurologist at the time. His family reports that when they cam
back to visit him, after a night in the hospital, he reportedly
improved back to baseline and his abdominal pain improved, and 
he
was discharged home.  He was reportedly told that he might had a
seizure. He was doing fine after being discharged home until
earlier today. 

Earlier today he had another similar episode while the family 
was
driving, he reportedly complaint of feeling "hot in his legs
which moved all the way up to his abdomen" and then became
unresponsive with his head turned back, and "shaking at his neck
and shaking in all 4 extremities", as well as lip smacking.
Mother does not remember any head or eye deviation.  Mother is
not sure how long exactly it lasted, but said that after a few
minutes it self resolved. Afterwards he was confused and had
difficulty talking.  He was brought to ___ emergency room
where he reportedly had another similar episode (no description
of event in transfer records). At that time he was loaded with
Keppra 1 g times one, which was around 4pm.  Neurology was
consulted and recommended transfer to ___.  However 
patient
returned back to his baseline and decision was made to admit him
to the floor at ___.  However on the floor patient was
found to be intermittently altered, with ongoing lipsmacking and
neck/arm movement.  In between "episodes he was noted to say
simple words but had very halted speech, but will later drift 
off
with lipsmacking, occasional myoclonic jerking of extremities". 
Episodes reportedly last circa up to 3 minutes. 
At that time decision was made to transfer patient to ___ 
___.
Prior to transfer he underwent a noncontrast head CT and an MRI
brain, which are available under BI PACS.  (No report available
at this time but per review of imaging by chief and myself no
acute process seen).  Lab work at outside hospital unremarkable. 

Tox screen negative. Etoh negative. He was given another 500mg 
IV
of keppra prior to transfer. 

At ___ patient was noted to be
afebrile, blood pressure 136/90 heart rate 66 satting well on
room air. He appeared tired, but his neuro exam was otherwise
nonfocal. 

Of note patient reports history of narcotic use.  States he used
last time 1 or 2 weeks ago, he is not quite sure when exactly. 
He states he usually buys his drugs from the street.  He usually
buys Percocet, but said that last week he was given fentanyl he
believes.  He said he uses narcotics several times per day, with
most recent use 1 or 2 weeks ago.

States this never happened to him before.  No history of 
seizures
or febrile seizures as a child.  No family history of seizures.  

Head trauma to his head as a child, was hit with a metal object
by his brother on the head.  No history of CNS infection.

On neuro ROS, the pt denies headache, loss of vision, blurred
vision, diplopia, dysarthria, dysphagia, lightheadedness,
vertigo, tinnitus or hearing difficulty. Denies focal weakness,
numbness, parasthesiae. No bowel or bladder incontinence or
retention. 

On general review of systems, the pt denies recent fever or
chills.  No night sweats or recent weight loss or gain. Denies
cough, shortness of breath.  Denies chest pain or tightness,
palpitations.  Denies  vomiting, diarrhea, constipation.  No
recent change in bowel or bladder habits.  No dysuria.  Denies
rashes.
 
Past Medical History:
Anxiety
Depression
Narcotic use (Percocet, but buys it off the street)

 
Social History:
___
Family History:
No family history of seizures or neurologic disorder states this
has never happened to him before
 
Physical Exam:
Physical Exam:
- General: sleepy, but cooperative 
- HEENT: NC/AT
- Neck: Supple
- Pulmonary: no increased WOB
- Cardiac: well perfused 
- Abdomen: soft, nontender, nondistended
- Extremities: no edema, pulses palpated
- Skin: no rashes or lesions noted.

Neurologic:

-Mental Status: Appears sleepy, needs frequent stimulation but
oriented x 3. Able to relate at least some of his hx. Attentive,
able to name ___ backward. Language is fluent with intact
repetition and comprehension. Pt was able to name both high and
low frequency objects. Speech was mildly dysarthric, when tired,
but with stimulation it appeared to improve. Able to follow both
midline and appendicular commands. There was no evidence of
neglect.

-Cranial Nerves:
I: Olfaction not tested.
II: PERRL 5 to 2mm and brisk. VFF to confrontation. 
III, IV, VI: EOMI without nystagmus.
V: Facial sensation intact to light touch.
VII: No facial droop, facial musculature symmetric.
VIII: Hearing intact to finger-rub bilaterally.
IX, X: Palate elevates symmetrically.
XI: ___ strength in trapezii and SCM bilaterally.
XII: Tongue protrudes in midline.

-Motor: Normal bulk, tone throughout. No pronator drift
bilaterally. No adventitious movements, such as tremor, noted. 
Appeared full in BUE, 4+ throughout in BLE, but this appeared
very effort dependent 

-DTRs:  
       [Bic] [Tri] [___] [Quad] 
     L  2+    2+     2+      2+       
     R  2+    2+     2+      2+         
toes down on right and mute on left 

-Sensory: No deficits to light touch, pinprick throughout. No
extinction to DSS.

-Coordination: No intention tremor. Grossly no dysmetria on FNF
bilaterally.

-Gait: Deferred

DISCHARGE PHYSICAL EXAM
- General: sleepy, but cooperative 
- HEENT: NC/AT
- Neck: Supple
- Pulmonary: no increased WOB
- Cardiac: well perfused 
- Abdomen: soft, nontender, nondistended
- Extremities: no edema, pulses palpated
- Skin: no rashes or lesions noted.

Neurologic:

-Mental Status: Awake, alert oriented x 3. Attentive,
able to name ___ backward. Language is fluent with intact
repetition and comprehension. Pt was able to name both high and
low frequency objects. Able to follow both midline and 
appendicular commands. There was no evidence of neglect.

-Cranial Nerves:
I: Olfaction not tested.
II: PERRL 5 to 2mm and brisk. VFF to confrontation. 
III, IV, VI: EOMI without nystagmus.
V: Facial sensation intact to light touch.
VII: No facial droop, facial musculature symmetric.
VIII: Hearing intact to finger-rub bilaterally.
IX, X: Palate elevates symmetrically.
XI: ___ strength in trapezii and SCM bilaterally.
XII: Tongue protrudes in midline.

-Motor: Normal bulk, tone throughout. No pronator drift
bilaterally. No adventitious movements, such as tremor, noted. 
Appeared full in BUE, and full throughout in BLE

-Sensory: No deficits to light touch throughout. No
extinction to DSS.

-Coordination: No intention tremor. no dysmetria on FNF
bilaterally.

-Gait: normal, seen walking around unit
 
Pertinent Results:
___ 01:30AM BLOOD WBC-9.0 RBC-4.61 Hgb-14.4 Hct-41.8 MCV-91 
MCH-31.2 MCHC-34.4 RDW-12.4 RDWSD-41.0 Plt ___
___ 01:30AM BLOOD Glucose-86 UreaN-11 Creat-0.7 Na-137 
K-4.7 Cl-97 HCO3-28 AnGap-12
___ 01:30AM BLOOD ALT-21 AST-24 AlkPhos-76 TotBili-0.5
___ 01:30AM BLOOD Albumin-4.4 Calcium-9.8 Phos-3.8 Mg-2.0
___ 01:30AM BLOOD ASA-NEG Ethanol-NEG Acetmnp-NEG 
Bnzodzp-NEG Barbitr-NEG Tricycl-NEG
___ 04:43AM URINE bnzodzp-NEG barbitr-NEG opiates-POS* 
cocaine-NEG amphetm-NEG oxycodn-POS* mthdone-NEG

 
Brief Hospital Course:
___ yo male with a history of anxiety, panic d/o (on klonopin) 
who presented with multiple spells, anxiety, and abdominal pain 
in the context of stopping his chronic narcotics and benzos. 
When he was initially admitted there was concern for possible 
seizures. His symptoms were described as sensory changes, 
anxiety, tremor and a choking feeling. The repeated choking 
noises were noted to begin on interview, these noises appeared 
to resolve on cessation of interview and interviewer stepping 
out of room. He received keppra, routine EEG was performed which 
was normal. His exam was noticeable for large pupils, slight 
tremor, some diaphoresis and the mentioned choking noises. 
Overall, the time course of his symptoms did not seem consistent 
with seizures. His symptoms were felt to be panic attacks along 
with a combination of opioid withdrawal and benzo withdrawal. 
His home klonopin was restarted. He was discharged with a short 
prescription of Percocet and klonopin, he states is seeing his 
psychiatrist on ___, who manages his anxiety.

Chronic issues: none addressed this admission

Transitional issues:
Pain management - consider starting on suboxone/methadone for 
chronic pain management
Chronic benzo - consider slow taper of benzos and transition to 
other medication for treatment of panic disorder, anxiety, PTSD.
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Sertraline 150 mg PO DAILY 
2. Aspirin 81 mg PO DAILY 
3. ClonazePAM 1 mg PO BID 

 
Discharge Medications:
1.  OxyCODONE--Acetaminophen (5mg-325mg) ___ TAB PO Q8H:PRN Pain 
- Moderate 
RX *oxycodone-acetaminophen 5 mg-325 mg 1 tablet(s) by mouth 
every eight (8) hours Disp #*10 Tablet Refills:*0 
2.  Aspirin 81 mg PO DAILY  
3.  ClonazePAM 1 mg PO BID 
RX *clonazepam 1 mg 1 tablet(s) by mouth twice a day Disp #*7 
Tablet Refills:*0 
4.  Sertraline 150 mg PO DAILY  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Panic attack
Likely opiate withdrawal

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.
Neuro exam: Large pupils. slight resting tremor in BUE. 
otherwise nonfocal exam

 
Discharge Instructions:
Dear Mr. ___,

You were hospitalized because of abnormal movements. There was 
some concern for seizure initially. On our evaluation we felt 
that your symptoms were not consistent with seizure. They were 
more likely due to a combination of your symptoms from anxiety 
(a panic attack) and a combination of withdrawal symptoms from 
your Percocet. These were probably different than your usual 
anxiety symptoms because of the withdrawal component. You also 
may have been experiencing withdrawal symptoms from having not 
taken your clonazepam. You had an EEG (study that looks at your 
brainwaves), this did not reveal any seizures or epileptic 
discharges. You should follow up with your psychiatrist for your 
anxiety. We have provided you with a short prescription of 
clonazepam and pain medications until you see your primary care 
doctor and psychiatrist. You should avoid obtaining prescription 
medicines on the street as they could have dangerous substances 
mixed in. 

Sincerely,
___ Neurology Team
 
Followup Instructions:
___